* Subcircuit Sn5425
.subckt Sn5425 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ gnd net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ gnd 
* c:\fossee\esim\library\subcircuitlibrary\sn5425\sn5425.cir
* u6  net-_u1-pad1_ net-_u1-pad3_ net-_u12-pad1_ d_and
* u7  net-_u1-pad2_ net-_u1-pad3_ net-_u12-pad2_ d_and
* u8  net-_u1-pad4_ net-_u1-pad3_ net-_u13-pad1_ d_and
* u9  net-_u1-pad5_ net-_u1-pad3_ net-_u13-pad2_ d_and
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_or
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_or
* u15  net-_u12-pad3_ net-_u13-pad3_ net-_u15-pad3_ d_or
* u2  net-_u1-pad9_ net-_u1-pad11_ net-_u10-pad1_ d_and
* u3  net-_u1-pad10_ net-_u1-pad11_ net-_u10-pad2_ d_and
* u4  net-_u1-pad12_ net-_u1-pad11_ net-_u11-pad1_ d_and
* u5  net-_u1-pad13_ net-_u1-pad11_ net-_u11-pad2_ d_and
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_or
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_or
* u14  net-_u10-pad3_ net-_u11-pad3_ net-_u14-pad3_ d_or
* u17  net-_u15-pad3_ net-_u1-pad6_ d_inverter
* u16  net-_u14-pad3_ net-_u1-pad8_ d_inverter
a1 [net-_u1-pad1_ net-_u1-pad3_ ] net-_u12-pad1_ u6
a2 [net-_u1-pad2_ net-_u1-pad3_ ] net-_u12-pad2_ u7
a3 [net-_u1-pad4_ net-_u1-pad3_ ] net-_u13-pad1_ u8
a4 [net-_u1-pad5_ net-_u1-pad3_ ] net-_u13-pad2_ u9
a5 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a6 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a7 [net-_u12-pad3_ net-_u13-pad3_ ] net-_u15-pad3_ u15
a8 [net-_u1-pad9_ net-_u1-pad11_ ] net-_u10-pad1_ u2
a9 [net-_u1-pad10_ net-_u1-pad11_ ] net-_u10-pad2_ u3
a10 [net-_u1-pad12_ net-_u1-pad11_ ] net-_u11-pad1_ u4
a11 [net-_u1-pad13_ net-_u1-pad11_ ] net-_u11-pad2_ u5
a12 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a13 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a14 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u14-pad3_ u14
a15 net-_u15-pad3_ net-_u1-pad6_ u17
a16 net-_u14-pad3_ net-_u1-pad8_ u16
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u12 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u13 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u15 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u2 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u10 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u14 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends Sn5425