.title kicad schematic

.include CD74HC390.sub
* u3 net-_u3-pad1_ gnd net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
* u4 clk_a clk_b unconnected-_u4-pad3_ net-_u4-pad4_ adc_bridge_2
r4 d gnd 1k
* u9 d plot_v1
* u8 c plot_v1
* u6 b plot_v1
r3 c gnd 1k
r1 a gnd 1k
r2 b gnd 1k
* u1 clk_a plot_v1
v2 clk_b gnd pulse(0v 5v 0 1ps 1ps 100ns 200ns)
v1 clk_a gnd pulse(0v 5v 0 1ps 1ps 100ns 200ns)
v3 net-_u3-pad1_ gnd  dc 5v
* u2 clk_b plot_v1
* u7 a plot_v1
x1 net-_u5-pad1_ net-_u3-pad4_ net-_x1-pad3_ net-_u4-pad4_ net-_u5-pad3_ net-_u5-pad2_ net-_u5-pad1_ net-_u3-pad4_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ unconnected-_x1-pad14_ unconnected-_x1-pad15_ net-_u3-pad3_ CD74HC390
* u5 net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_x1-pad3_ d c b a dac_bridge_4
a1 [net-_u3-pad1_ gnd ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
a2 [clk_a clk_b ] [unconnected-_u4-pad3_ net-_u4-pad4_ ] u4
a3 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_x1-pad3_ ] [d c b a ] u5
* Schematic Name:                             adc_bridge_2, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 2000e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d)
plot v(c)
plot v(b)
plot v(clk_a)
plot v(clk_b)
plot v(a)
.endc
.end
