* Subcircuit SN54LS290_sub
.subckt SN54LS290_sub net-_u1-pad1_ unconnected-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ unconnected-_u1-pad6_ unconnected-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
.title kicad schematic
* u6 net-_u15-pad1_ net-_u12-pad1_ d_inverter
* u10 net-_u1-pad5_ net-_u10-pad2_ d_inverter
* u5 net-_u17-pad1_ net-_u13-pad2_ d_inverter
* u4 net-_u15-pad1_ net-_u13-pad1_ d_inverter
* u9 net-_u1-pad11_ net-_u21-pad3_ d_inverter
* u7 net-_u17-pad1_ net-_u12-pad2_ d_inverter
* u21 net-_u20-pad7_ net-_u1-pad14_ net-_u21-pad3_ unconnected-_u21-pad4_ net-_u13-pad3_ net-_u1-pad5_ unconnected-_u21-pad7_ d_jkff
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_or
* u19 net-_u17-pad1_ net-_u19-pad2_ d_inverter
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_or
* u18 net-_u1-pad14_ net-_u1-pad14_ net-_u10-pad2_ unconnected-_u18-pad4_ net-_u12-pad3_ net-_u1-pad4_ unconnected-_u18-pad7_ d_jkff
* u3 net-_u1-pad1_ net-_u1-pad3_ net-_u17-pad1_ d_nand
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u14 net-_u1-pad10_ net-_u14-pad2_ d_inverter
* u8 net-_u1-pad4_ net-_u1-pad5_ net-_u20-pad1_ d_and
* u11 net-_u1-pad11_ net-_u11-pad2_ d_inverter
* u2 net-_u1-pad12_ net-_u1-pad13_ net-_u15-pad1_ d_nand
* u16 net-_u15-pad1_ net-_u16-pad2_ d_inverter
* u20 net-_u20-pad1_ net-_u1-pad8_ net-_u11-pad2_ net-_u19-pad2_ net-_u16-pad2_ net-_u1-pad8_ net-_u20-pad7_ d_srff
* u17 net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u22 net-_u1-pad14_ net-_u1-pad14_ net-_u14-pad2_ net-_u17-pad2_ net-_u15-pad2_ net-_u1-pad9_ unconnected-_u22-pad7_ d_jkff
a1 net-_u15-pad1_ net-_u12-pad1_ u6
a2 net-_u1-pad5_ net-_u10-pad2_ u10
a3 net-_u17-pad1_ net-_u13-pad2_ u5
a4 net-_u15-pad1_ net-_u13-pad1_ u4
a5 net-_u1-pad11_ net-_u21-pad3_ u9
a6 net-_u17-pad1_ net-_u12-pad2_ u7
a7 net-_u20-pad7_ net-_u1-pad14_ net-_u21-pad3_ unconnected-_u21-pad4_ net-_u13-pad3_ net-_u1-pad5_ unconnected-_u21-pad7_ u21
a8 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a9 net-_u17-pad1_ net-_u19-pad2_ u19
a10 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a11 net-_u1-pad14_ net-_u1-pad14_ net-_u10-pad2_ unconnected-_u18-pad4_ net-_u12-pad3_ net-_u1-pad4_ unconnected-_u18-pad7_ u18
a12 [net-_u1-pad1_ net-_u1-pad3_ ] net-_u17-pad1_ u3
a13 net-_u15-pad1_ net-_u15-pad2_ u15
a14 net-_u1-pad10_ net-_u14-pad2_ u14
a15 [net-_u1-pad4_ net-_u1-pad5_ ] net-_u20-pad1_ u8
a16 net-_u1-pad11_ net-_u11-pad2_ u11
a17 [net-_u1-pad12_ net-_u1-pad13_ ] net-_u15-pad1_ u2
a18 net-_u15-pad1_ net-_u16-pad2_ u16
a19 net-_u20-pad1_ net-_u1-pad8_ net-_u11-pad2_ net-_u19-pad2_ net-_u16-pad2_ net-_u1-pad8_ net-_u20-pad7_ u20
a20 net-_u17-pad1_ net-_u17-pad2_ u17
a21 net-_u1-pad14_ net-_u1-pad14_ net-_u14-pad2_ net-_u17-pad2_ net-_u15-pad2_ net-_u1-pad9_ unconnected-_u22-pad7_ u22
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u21 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u13 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u12 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u18 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u20 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u22 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends SN54LS290_sub